US09079866B2
5-[3-Fluoro-2′-(pyrimidin-2-yloxy)biphenyl-4-yl]-1H-benzimidazole
The title compound was prepared in a manner similar to that described in Example 88 using 5-bromo-1H-benzo[d]imidazole and 2-((3′-fluoro-4′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-[1,1′-biphenyl]-2-yl)oxy)pyrimidine. MS (ESI): mass calcd. for C23H15FN4O, 382.12; m/z found, 383.1 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 9.31 (s, 1H), 8.52-8.45 (d, J=4.9, 2H), 7.95 (s, 1H), 7.92-7.87 (d, J=8.6, 1H), 7.79-7.70 (d, J=8.6, 1H), 7.59-7.55 (dd, J=7.7, 1.7, 1H), 7.55-7.47 (m, 2H), 7.45-7.39 (m, 2H), 7.38-7.32 (dd, J=12.0, 1.7, 1H), 7.30-7.23 (dd, J=8.1, 1.2, 1H), 7.13-7.08 (t, J=4.8, 1H).

reactant | 5-bromo-1H-benzo[d]imidazole | BrC1=CC2=C(NC=N2)C=C1 | C7H5BrN2
reactant | 2-((3′-fluoro-4′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-[1,1′-biphenyl]-2-yl)oxy)pyrimidine | FC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)C1=C(C=CC=C1)OC1=NC=CC=N1 | C22H22BFN2O3
product | 5-[3-Fluoro-2′-(pyrimidin-2-yloxy)biphenyl-4-yl]-1H-benzimidazole | FC=1C=C(C=CC1C1=CC2=C(NC=N2)C=C1)C1=C(C=CC=C1)OC1=NC=CC=N1 | C23H15FN4O
